US08912180B2
To a solution of N-{4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}cyclohexane-1,3-diamine (70 mg) in dimethylacetamide (1.4 mL) were added triethylamine (56 μL) and bis(2-bromomethyl)ether (31 μL), followed by stirring at 120° C. for 2 hours using a microwave reactor. To the reaction solution was added water, followed by extraction with ethyl acetate. The extracts were washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate, the desiccant was removed by filtration, and then the solvent was evaporated under reduced pressure. The residue was purified by amino silica gel column chromatography (hexane:ethyl acetate=60:40-20:80) to obtain 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)-N-[3-(morpholin-4-yl)cyclohexyl]pyrimidin-2-amine (42 mg).

reactant | N-{4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)pyrimidin-2-yl}cyclohexane-1,3-diamine | 70 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NC1CC(CCC1)N)C=CC=C2)F | C22H27F2N7O
reactant | triethylamine | 56 μL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
reactant | dimethylacetamide | 1.4 mL | CC(=O)N(C)C | C4H9NO
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-(morpholin-4-yl)-N-[3-(morpholin-4-yl)cyclohexyl]pyrimidin-2-amine | 42 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)NC1CC(CCC1)N1CCOCC1)C=CC=C2)F | C26H33F2N7O2
